US07115611B2
C] [rac]-3-(1-Chloro-ethyl)-2-methyl-6-(3-trifluoromethyl-phenyl)-pyridine
0.530 g (1.89 mmol) of the above prepared [rac]-1-[2-methyl-6-(3-trifluoromethyl-phenyl)-pyridin-3-yl]-ethanol was dissolved in 9.5 ml of CH2Cl2 and treated dropwise at 0° C. with 0.275 ml (2 eq.) of SOCl2. The reaction mixture was kept at 0° C. for 5 Min. and at RT for 30 Min. Pouring onto crashed ice/NaHCO3, twofold extraction with EtOEt, washing with water, drying over sodium sulfate and evaporation of the solvents yielded 0.586 g of pure title compound as light yellow oil.

reactant | [rac]-1-[2-methyl-6-(3-trifluoromethyl-phenyl)-pyridin-3-yl]-ethanol | CC1=NC(=CC=C1C(C)O)C1=CC(=CC=C1)C(F)(F)F | C15H14F3NO
reactant | SOCl2 | 0.275 ml, 2 eq. | O=S(Cl)Cl | Cl2OS
solvent | CH2Cl2 | 9.5 ml | C(Cl)Cl | CH2Cl2
product | [rac]-3-(1-Chloro-ethyl)-2-methyl-6-(3-trifluoromethyl-phenyl)-pyridine | 0.586 g | ClC(C)C=1C(=NC(=CC1)C1=CC(=CC=C1)C(F)(F)F)C | C15H13ClF3N
